US05336782
In 15 ml of tetrahydrofuran N-(13-benzyloxycarbonyltridecanoyloxy)succinimide (2.28 g, 5.12 mmoles) was dissolved. To the obtained solution, were added 228 mg of 10% palladium carbon and the mixture was stirred for 15 hours under an atmosphere of hydrogen. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was recrystallized from ethanol, to give N-(13-carboxytridecanoyloxy)succinimide (1.71 mg, 94%) having the following properties.

reactant | tetrahydrofuran N-(13-benzyloxycarbonyltridecanoyloxy)succinimide | 5.12 mmoles, 15 ml, 2.28 g | C(C1=CC=CC=C1)OC(=O)CCCCCCCCCCCCC(=O)ON1C(CCC1=O)=O.O1CCCC1
catalyst | palladium carbon | 228 mg | [C].[Pd]
product | N-(13-carboxytridecanoyloxy)succinimide | 1.71 mg, 94% | C(=O)(O)CCCCCCCCCCCCC(=O)ON1C(CCC1=O)=O | C18H29NO6
